US08609647B2
(1) Optically-Active Compound of 2-benzylaminopropan-1-ol
To a solution of (S)-(+)-2-aminopropan-1-ol (50.0 g) and benzaldehyde (74 ml) in ethanol (500 ml) was added 5% palladium carbon (5.0 g), and the mixture was hydrogenated at room temperature under ordinary pressure for 8 hours. The reaction mixture was filtered through Celite, and concentrated under reduced pressure to give the titled compound (111.2 g).

reactant | (S)-(+)-2-aminopropan-1-ol | 50.0 g | N[C@H](CO)C | C3H9NO
reactant | benzaldehyde | 74 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium carbon | 5.0 g | [C].[Pd]
product | 2-benzylaminopropan-1-ol | 111.2 g | C(C1=CC=CC=C1)NC(CO)C | C10H15NO
